US05585395
2-(2,2,2-Trifluoroethyl)-2-trifluoromethyl-1,3benzodioxole
11 g of pyrocatechol were dissolved in 200 ml of dimethylfomamide, and 18 g of 45% strength by weight aqueous sodium hydroxide solution were added. 20 g of 2-chloro-1,1,1,4,4,4-hexafluoro-2-butene were added dropwise at 75° C. to the mixture. Stirring was continued for 30 minutes at 75° C. The mixture was then poured into 500 ml of ice-water and extracted with diethyl ether. The organic phase was washed with water, dried with magnesium sulphate and concentrated. Finally, the product was distilled under a high vacuum. The yield was 15 g (=56%) the boiling point was 60° C. at 10 mbar. The NMR spectra showed the following characteristic absorptions: 19F-NMR: -59.0 and -84.6 ppm; 1H-NMR: 3.02 ppm.

reactant | pyrocatechol | 11 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | 2-chloro-1,1,1,4,4,4-hexafluoro-2-butene | 20 g | ClC(C(F)(F)F)=CC(F)(F)F | C4HClF6
solvent | sodium hydroxide | [OH-].[Na+]
product | 2-(2,2,2-Trifluoroethyl)-2-trifluoromethyl-1,3benzodioxole | FC(CC1(OC2=C(O1)C=CC=C2)C(F)(F)F)(F)F | C10H6F6O2
